### PR TITLE
chore(List/Perm): use `BEq`/`LawfulBEq`

### PR DESCRIPTION
**Pull request by urkud**
... instead of `DecidableEq`.

Also add a version of `Perm.insert` that doesn't need `LawfulBEq`.

### CODE REVIEW

File: Batteries/Data/List/Perm.lean [hunk 1]
```diff
@@ -168,16 +168,17 @@ theorem Nodup.perm_iff_eq_of_sublist {l₁ l₂ l : List α} (d : Nodup l)
       exact (d.1 this).elim
     | .cons₂ _ s₁ => rw [IH d.2 s₁ h.cons_inv]
 
-section DecidableEq
+section LawfulBEq
 
-variable [DecidableEq α]
+variable [BEq α] [LawfulBEq α]
```
Comment (fgdorais) [inline Batteries/Data/List/Perm.lean]: Batteries likes to avoid `variable` and `section`. This one was a historical artifact, let's remove it.

File: Batteries/Data/List/Perm.lean [hunk 2]
```diff
@@ -279,6 +280,13 @@ theorem Subperm.cons_left {l₁ l₂ : List α} (h : l₁ <+~ l₂) (x : α) (hx
     refine h y ?_
     simpa [hy'] using hy
 
+omit [LawfulBEq α] in -- TODO: replace `Perm.insert` in core
```
Comment (fgdorais) [inline Batteries/Data/List/Perm.lean]: Please PR to core and then add a note to deprecate once that PR is merged.

**Comment by fgdorais** [comment]
awaiting-author

File: Batteries/Data/List/Perm.lean (hunk 2 above)
Comment (urkud) [reply Batteries/Data/List/Perm.lean]: Removed for now. I'll open a PR to core later.

**Comment by urkud** [comment]
-awaiting-author
